US06951875B2
a) 2-Bromo-6-ethyl-pyridine 1-oxide
To a solution of 2-bromo-6-ethyl-pyridine (15.4 g, 82.8 mmol) (S. G. Davies and M. R. Shipton, J. Chem. Soc., Perkin Trans. 1, 1991, 3, 501) in acetic acid (15 ml) peracetic acid (26 ml of a 39%) solution) was added maintaining T<50° C. After completed addition the mixture was stirred at 50° C. for 5 hr and then cooled to rt. Crushed ice (40 g) was added and the mixture was made basic (pH 12) using 40% KOH solution. After extraction with CHCl3 (6×60 ml) the combined organic phases were dried (Na2CO3) and evaporated to give 20.0 g (>100%) of the title compound, MS: m/e=201 (M+) as a yellow oil.

reactant | 2-bromo-6-ethyl-pyridine | 82.8 mmol, 15.4 g | BrC1=NC(=CC=C1)CC | C7H8BrN
reactant | KOH | [OH-].[K+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-6-ethyl-pyridine 1-oxide | 20.0 g, >100% | BrC1=[N+](C(=CC=C1)CC)[O-] | C7H8BrNO
